US05670505
A solution of N-(tert-butoxycarbonyl)-D-alanine (3 g) in dimethylformamide (5 ml) was added dropwise to a stirred solution mixture of 60% sodium hydride (1.4 g) in dimethylformamide (5 ml) at ice-bath temperature. After stirring for 30 minutes at the same temperature, benzyl bromide (4.14 ml) was added and then the mixture was stirred for 1 hour at the same temperature and then for 6 hours at room temperature. The reaction mixture was poured into a mixture of dilute hydrochloric acid and ice-water, and extracted with diisopropyl ether. The extract was washed with aqueous sodium bicarbonate solution and brine successively and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the residue was purified by column chromatography on silica gel eluting with a mixture of n-hexane and ethyl acetate (2:1) to give an oily product, which was dissolved in dichloromethane (40 ml). To the solution was added 4N hydrogen chloride in dioxane solution (7 ml) at ice-bath temperature. The resulting mixture was stirred for 1.5 hours at room temperature and then concentrated under reduced pressure to give benzyl (2R)-2-(N-benzylamino)propionate hydrochloride (2.2 g).

reactant | N-(tert-butoxycarbonyl)-D-alanine | 3 g | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | benzyl bromide | 4.14 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | benzyl (2R)-2-(N-benzylamino)propionate hydrochloride | 2.2 g | Cl.C(C1=CC=CC=C1)N[C@@H](C(=O)OCC1=CC=CC=C1)C | InChI=1S/C17H19NO2.ClH/c1-14(18-12-15-8-4-2-5-9-15)17(19)20-13-16-10-6-3-7-11-16;/h2-11,14,18H,12-13H2,1H3;1H/t14-;/m1./s1
